US04719219
Example I10. (+)-3-(3-Methoxyphenyl)piperidine hydrochloride (Method j).
(-)-N-benzyl-3-(3-methoxyphenyl)piperidine hydrochloride (3.8 g, 0.0120 mol) was dissolved in ethanol (80 m), 10% Pd/C was added and the mixture was hydrogenated at room temperature and atmospheric pressure (28 h). The catalyst was removed (Celite) by filtration, the solvent was evaporated off and the crystalline residue was recrystallized from methanol-ether giving the desired (+)-3-(3-methoxyphenyl)-piperidine hydrochloride (2.54 g, 30% total yield of the maximal theoretical) m.p. 175.5°-177° C.; [α]22D +10.1° (C 2.1, CH3OH).

reactant | (-)-N-benzyl-3-(3-methoxyphenyl)piperidine hydrochloride | 0.0120 mol, 3.8 g | Cl.C(C1=CC=CC=C1)N1CC(CCC1)C1=CC(=CC=C1)OC
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (+)-3-(3-Methoxyphenyl)piperidine hydrochloride | Cl.COC=1C=C(C=CC1)C1CNCCC1 | InChI=1S/C12H17NO.ClH/c1-14-12-6-2-4-10(8-12)11-5-3-7-13-9-11;/h2,4,6,8,11,13H,3,5,7,9H2,1H3;1H
